US04987132
A solution of 0.67 g of ethyl chloroformate in 2 ml of tetrahydrofuran was added to a solution of 1.01 g of ethyl 4-carboxypiperidine-1-carboxylate and 0.72 g of triethylamine in 20 ml of tetrahydrofuran at -10° to -5° C., and the mixture was stirred for 30 minutes. The resultant crystalline precipitate was filtered off, the filtrate was added to a solution of 0.57 g of sodium borohydride in 10 ml of water with ice cooling over 30 minutes, and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was made acidic with 1N hydrochloric acid with ice cooling and then extracted with ether. The ether layer was washed in sequence with water, saturated aqueous solution of sodium hydrogen carbonate and saturated aqueous solution of sodium chloride, then dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography. Elution with a hexane-ethyl acetate (1:1 v/v) mixture gave 0.69 g of ethyl 4-hydroxymethylpiperidine-1-carboxylate

reactant | ethyl chloroformate | 0.67 g | ClC(=O)OCC | C3H5ClO2
reactant | ethyl 4-carboxypiperidine-1-carboxylate | 1.01 g | C(=O)(O)C1CCN(CC1)C(=O)OCC | C9H15NO4
reactant | triethylamine | 0.72 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | ethyl 4-hydroxymethylpiperidine-1-carboxylate | 0.69 g | OCC1CCN(CC1)C(=O)OCC | C9H17NO3
